US06124323
1-[2-(4-Hydroxyphenoxy)ethyl]-4-(4-methylbenzyl)piperidine hydrochloride
A mixture of 1-[2-(4-benzyloxyphenoxy)ethyl]-4-(4-methylbenzyl)piperidine hydrochloride (250 mg, 0.55 mmol) in 25 mL of ethanol with 60 mg of 20% Pd(OH)2 was hydrogenated at 30 psi of hydrogen to give 140 mg (88%) of the title compound, mp 198-200° C. 1H NMR (CD3OD) 1.6 (m, 2 H), 1.881-1.923 (m, 3 H), 2.288 (s, 3 H), 2.572 (d, J=6.6 Hz, 2 H), 3.06 (m, 2 H), 3.473 (m, 2 H), 3.61 (m, 2 H), 4.243 (t, J=5.1 Hz, 2 H), 6.709 (dd, J1 =2.4 Hz, J2 =6.6 Hz, 2 H), 6.830 (dd, J1 =2.4 Hz, J2 =6.6 Hz, 2 H), 7.703 (m, 4 H). Anal. Calcd for C21H28ClNO2.0.5H2O: C, 68.00; H, 7.88; N, 3.78. Found: C, 68.14; H, 7.65; N. 3.72.

reactant | 1-[2-(4-benzyloxyphenoxy)ethyl]-4-(4-methylbenzyl)piperidine hydrochloride | 0.55 mmol, 250 mg | Cl.C(C1=CC=CC=C1)OC1=CC=C(OCCN2CCC(CC2)CC2=CC=C(C=C2)C)C=C1
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 25 mL | C(C)O | C2H6O
catalyst | Pd(OH)2 | 60 mg | [OH-].[OH-].[Pd+2]
product | 1-[2-(4-Hydroxyphenoxy)ethyl]-4-(4-methylbenzyl)piperidine hydrochloride | 140 mg, 88% | Cl.OC1=CC=C(OCCN2CCC(CC2)CC2=CC=C(C=C2)C)C=C1 | InChI=1S/C21H27NO2.ClH/c1-17-2-4-18(5-3-17)16-19-10-12-22(13-11-19)14-15-24-21-8-6-20(23)7-9-21;/h2-9,19,23H,10-16H2,1H3;1H
